### PR TITLE
[Merged by Bors] - feat(ModelTheory): Formula.iSup and iInf

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---
This was a slightly controversial addition discussed in #20175 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/Semantics.lean [hunk 1]
```diff
@@ -833,19 +833,29 @@ theorem realize_toFormula (φ : L.BoundedFormula α n) (v : α ⊕ (Fin n) → M
...
-    (v : α → M) (v' : Fin n → M) :
+theorem realize_iInf [Finite β] {f : β → L.BoundedFormula α n}
+    {v : α → M} {v' : Fin n → M} :
     (iInf f).Realize v v' ↔ ∀ b, (f b).Realize v v' := by
   simp only [iInf, realize_foldr_inf, List.mem_map, Finset.mem_toList, Finset.mem_univ, true_and,
     forall_exists_index, forall_apply_eq_imp_iff]
 
+@[simp]
+theorem _root_.FirstOrder.Language.Formula.realize_iSup [Finite β] {f : β → L.Formula α}
+    {v : α → M} : (Formula.iSup f).Realize v ↔ ∃ b, (f b).Realize v  := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Semantics.lean:851]:
```suggestion
    {v : α → M} : (Formula.iSup f).Realize v ↔ ∃ b, (f b).Realize v := by
```

File: Mathlib/ModelTheory/Semantics.lean [hunk 2]
```diff
@@ -833,19 +833,29 @@ theorem realize_toFormula (φ : L.BoundedFormula α n) (v : α ⊕ (Fin n) → M
...
+  simp [Formula.iSup, Formula.Realize]
+
+@[simp]
+theorem _root_.FirstOrder.Language.Formula.realize_iInf [Finite β] {f : β → L.Formula α}
+    {v : α → M} : (Formula.iInf f).Realize v ↔ ∀ b, (f b).Realize v  := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Semantics.lean:856]:
```suggestion
    {v : α → M} : (Formula.iInf f).Realize v ↔ ∀ b, (f b).Realize v := by
```

File: Mathlib/ModelTheory/Syntax.lean [hunk 3]
```diff
@@ -747,6 +746,14 @@ noncomputable def iExs [Finite β] (φ : L.Formula (α ⊕ β)) : L.Formula α :
 protected nonrec abbrev iff (φ ψ : L.Formula α) : L.Formula α :=
   φ.iff ψ
 
+/-- take the disjunction of finitely many formulas -/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Syntax.lean:749]:
```suggestion
/-- Take the disjunction of finitely many formulas -/
```

File: Mathlib/ModelTheory/Syntax.lean [hunk 4]
```diff
@@ -747,6 +746,14 @@ noncomputable def iExs [Finite β] (φ : L.Formula (α ⊕ β)) : L.Formula α :
...
+noncomputable def iSup [Finite α] (f : α → L.Formula β) : L.Formula β :=
+  BoundedFormula.iSup f
+
+/-- take the conjunction of finitely many formulas -/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Syntax.lean:753]:
```suggestion
/-- Take the conjunction of finitely many formulas -/
```

**Review by YaelDillies — COMMENTED** [review]
@awainverse, can you confirm you're happy with this duplication?

**Review by fpvandoorn — COMMENTED** [review]
I think this is fine. Could you add a warning to all the 4 definitions that this is an arbitrary formula, and only "well-defined" up to equivalence of formulas (feel free to formulate differently).

bors d+
